US07977364B2
A solution of n-BuLi 2.0M in THF (9.7 mmoles) was slowly added to a solution of diisopropylamine (1.3 ml, 1.05 eq) and dry THF (10 ml) at −20° C. under N2. The mixture was stirred for 30 min at −20° C., then 4-methoxybenzonitrile (1.3 g, 8.8 mmoles) and dry THF (10 ml) were slowly added at −78° C. The mixture was stirred for 30 min at −78° C., then 3-(bromomethyl)-6-[(tert-butyl(dimethyl)silyl)oxy]-1,2-benzisoxazole (3 g, 8.8 mmoles) and dry THF (10 ml) were slowly added. The mixture was then stirred for 30 min at room temperature, poured into water, extracted with AcOEt, dried over Na2SO4, and purified by flash chromatography (AcOEt/Heptane 2/8 with 0.1% TEA) to give 3-(6-[(tert-butyl)dimethylsilyl)oxy]-1,2-benzisoxazol-3-yl)-2-(4-methoxyphenyl) propanenitrile (1 g, 28%).

reactant | n-BuLi | 2.0M | [Li]CCCC
reactant | diisopropylamine | 1.3 ml, 1.05 eq | C(C)(C)NC(C)C | C6H15N
reactant | 4-methoxybenzonitrile | 8.8 mmoles, 1.3 g | COC1=CC=C(C#N)C=C1 | C8H7NO
reactant | 3-(bromomethyl)-6-[(tert-butyl(dimethyl)silyl)oxy]-1,2-benzisoxazole | 8.8 mmoles, 3 g | BrCC1=NOC2=C1C=CC(=C2)O[Si](C)(C)C(C)(C)C | C14H20BrNO2Si
solvent | water | O | H2O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 9.7 mmoles | C1CCOC1 | C4H8O
product | 2-(4-methoxyphenyl) propanenitrile | 1 g, 28% | COC1=CC=C(C=C1)C(C#N)C | C10H11NO
